US07956222B2
5-Bromo-3-fluoro-2-hydroxybenzaldehyde
To a solution of 4-bromo-2-fluorophenol (100 g, 0.52 mol) in trifluoroacetic acid (TFA) (400 mL) , hexamethylenetetramine (HMT) (146.8 g, 1.05 mol) was added under a nitrogen atmosphere in three portions over 20 minutes, the mixture was stirred at room temperature for 20 minutes, and then at 90° C. for 13 hours, and then cooled to room temperature. Water (600 mL) and a 50% aqueous solution of sulfuric acid (300 ML) were sequentially added thereto at room temperature, and the mixture was stirred at room temperature for two hours. The resultant mixture was extracted three times with ethyl acetate (1 L), the organic layer was washed four times with 1 N aqueous solution of hydrochloric acid (1 L), twice with saturated saline, and dried over anhydrous magnesium sulfate. The solvent was distilled off from the organic layer under reduced pressure and the residue was azeotroped twice with toluene. Ethanol (20 mL) was added to the residue, and the solid obtained after filtration of the suspended solution was washed twice with ethanol (10 mL) to give 49.6 g of the title compound (yield: 43%).

reactant | 4-bromo-2-fluorophenol | 0.52 mol, 100 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | hexamethylenetetramine | 1.05 mol, 146.8 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | Water | 600 mL | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | trifluoroacetic acid | 400 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Bromo-3-fluoro-2-hydroxybenzaldehyde | 49.6 g, yield: 43% | BrC=1C=C(C(=C(C=O)C1)O)F | C7H4BrFO2
